US04128564
Preparation of 8-methylsulfonyl-11-(1-hydroxycyclohexyl)-10-undecynoic acid
1-Ethynylcyclohexan-1-ol(100 g., 0.8 mole) is added dropwise with stirring to a mixture of acetic anhydride (86.7 g., 0.85 mole) and sulfuric acid (0.25 ml.). The temperature of the reaction mixture is kept at 10°-12° C. during the addition by means of an ice bath. The mixture is then stirred without cooling for 1.5 hours. It is then poured into 300 ml. of ice water. The oily product is taken up in ether, washed with water, dilute sodium bicarbonate solution and brine and dried over sodium sulfate. Distillation affords 107 g. (80%) of 1-acetoxy-1-ethynylcyclohexane, b.p. 95°-97° C./15 mm.

reactant | 1-Ethynylcyclohexan-1-ol | 0.8 mole, 100 g | C(#C)C1(CCCCC1)O | C8H12O
reactant | acetic anhydride | 0.85 mole, 86.7 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-acetoxy-1-ethynylcyclohexane | C(C)(=O)OC1(CCCCC1)C#C | C10H14O2
reactant | ether | CCOCC | C4H10O
product | 8-methylsulfonyl-11-(1-hydroxycyclohexyl)-10-undecynoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CC#CC1(CCCCC1)O | C18H30O5S
